US07994203B2
Step 5: 3-(2,4-Dichloro-phenyl)-6-ethyl-2-methyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid
A suspension containing 3-(2,4-dichloro-phenyl)-6-ethyl-2-methyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid ethyl ester (1.80 g, 4.90 mmol) and lithium hydroxide monohydrate (1.0 g, 24.51 mmol) is heated at 70° C. in a 3/1 mixture of methanol/water (32 ml) for 2 hrs. The resulting solution is cooled to RT, diluted with water (60 ml) and glacial acetic acid added (approx. 3 ml) to adjust the pH to 4-5. The resultant suspension is stirred for 1 h and filtered and washed with water. The product is dried in vacuo at 50° C.; MS: m/z 339.03 [M+H]+

reactant | 3-(2,4-dichloro-phenyl)-6-ethyl-2-methyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid ethyl ester | 4.90 mmol, 1.80 g | C(C)OC(=O)C=1C(=NN2C1OC(=C2C2=C(C=C(C=C2)Cl)Cl)C)CC | C17H16Cl2N2O3
reactant | lithium hydroxide monohydrate | 24.51 mmol, 1.0 g | O.[OH-].[Li+]
reactant | methanol water | 32 ml | CO.O
solvent | water | 60 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(2,4-Dichloro-phenyl)-6-ethyl-2-methyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)CC)C(=O)O | C15H12Cl2N2O3
